US07396844B1
Synthesis of benzyl 3-(3R)-[N-benzyl-N-(4-cyanobenzoyl)amino]-4-(3-cyanophenoxy)butyrate
190 mg (0.47 mmol) of benzyl 3-(3R)-benzylamino-4-(3-cyanophenoxy)butyrate and 153 mg of triethylamine were stirred in 5 ml of dimethylformamide, and 70 mg (0.47 mmol) of 4-cyanobenzoyl chloride was added thereto under cooling with ice and stirred for 3 hours. 1 N hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The extract was washed with 1 N sodium hydroxide and saturated saline and dried over magnesium sulfate anhydride, and the solvent was distilled off and the residue was purified by silica gel column chromatography (ethyl acetate-hexane) to obtain the title compound.

reactant | benzyl 3-(3R)-benzylamino-4-(3-cyanophenoxy)butyrate | 0.47 mmol, 190 mg | C(C1=CC=CC=C1)N[C@H](CC(=O)OCC1=CC=CC=C1)COC1=CC(=CC=C1)C#N | C25H24N2O3
reactant | triethylamine | 153 mg | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzoyl chloride | 0.47 mmol, 70 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | benzyl 3-(3R)-[N-benzyl-N-(4-cyanobenzoyl)amino]-4-(3-cyanophenoxy)butyrate | C(C1=CC=CC=C1)N(C(C1=CC=C(C=C1)C#N)=O)[C@H](CC(=O)OCC1=CC=CC=C1)COC1=CC(=CC=C1)C#N | C33H27N3O4
